US04001431
13. 2,3-Bis(4-methoxyphenyl)-3-chloro-acrylonitrile
1.0 g of 2,3-Bis(4-methoxyphenyl)-3-chloro-acrylaldoxime (3.14 m moles) was refluxed for 2 hours in 25 ml of acetanhydride. After cooling, the mixture was poured onto water. The crystalline solid substance which had precipitated was suction-filtered and recrystallized from methanol. Melting point: 140° to 142° C.

reactant | 2,3-Bis(4-methoxyphenyl)-3-chloro-acrylaldoxime | 1.0 g | COC1=CC=C(C=C1)C(C=NO)=C(Cl)C1=CC=C(C=C1)OC | C17H16ClNO3
solvent | acetanhydride | 25 ml | CC(=O)OC(=O)C | C4H6O3
product | 2,3-Bis(4-methoxyphenyl)-3-chloro-acrylonitrile | COC1=CC=C(C=C1)C(C#N)=C(Cl)C1=CC=C(C=C1)OC | C17H14ClNO2
